US07101898B2
A solution of lithium hydroxide (27 mg, 1.1 mmol) in water (2.00 ml) was added to a solution of (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid methyl ester (217 mg, 0.94 mmol) in 1,4-dioxane (2.00 ml). 1,4-Dioxane was added until a clear solution was obtained. The reaction mixture was stirred for 16 h at room temperature. It was diluted with an 1 N aqueous solution of sodium hydroxide (50 ml) and washed with tert-butyl methyl ether (2×40 ml). The aqueous solution was acidified with a 10% aqueous solution of sodium hydrogensulphate until pH 3 was obtained. It was extracted with ethyl acetate (3×100 ml) The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo to give 170 mg of crude (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid which was used in the next step without further purification.

reactant | lithium hydroxide | 1.1 mmol, 27 mg | [OH-].[Li+]
reactant | (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid methyl ester | 0.94 mmol, 217 mg | COC(\C=C\C1=CC=C(C=C1)C(=O)C1CC1)=O | C14H14O3
solvent | water | 2.00 ml | O | H2O
solvent | 1,4-dioxane | 2.00 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid | 170 mg | C1(CC1)C(=O)C1=CC=C(C=C1)/C=C/C(=O)O | C13H12O3
